US04950666
The stirred intermediate 10-bromo-12-chloro-12,12-difluorododecanol, 31.9 grams (0.095 mole), was cooled, and 15.9 grams (0.11 mole) of 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) was added dropwise. Upon completion of addition the reaction mixture was allowed to warm to ambient temperature where it was stirred for 16 hours. After this time the reaction mixture was warmed to 70° C. where it was stirred for one hour. The reaction mixture was cooled, and then it was taken up in 200 mL of methylene chloride. The solution was washed in turn with one 150 mL portion of aqueous 1N hydrochloric acid, one 100 mL portion of water, one 100 mL portion of an aqueous solution saturated with sodium bicarbonate, one 100 mL portion of water, and one 100 mL portion of an aqueous solution saturated with sodium chloride. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residual oil. The oil was distilled under high vacuum yielding 14.3 grams of 12-chloro-12,12-difluoro-10-dodecenol, b.p. 130°-131° C./1.1-1.2 mm.

reactant | 10-bromo-12-chloro-12,12-difluorododecanol | BrC(CCCCCCCCCO)CC(F)(F)Cl | C12H22BrClF2O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.11 mole, 15.9 grams | N12CCCCCC2=NCCC1 | C9H16N2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 12-chloro-12,12-difluoro-10-dodecenol | 14.3 grams | ClC(C=CCCCCCCCCCO)(F)F | C12H21ClF2O
